US06706744B2
3-Bromoaniline (2.63 g, 15.3 mmol) was dissolved in ethyl acetate (100 ml) and 1N dry hydrogen chloride in diethyl ether (15.3 ml) was added and the solvents were removed in vacuo. The residue was stripped twice with toluene and the residue was suspended in toluene (30 ml). Diphosgene (6.1 ml) was added and the mixture was refluxed for 1.5 hour. After cooling, the solution was concentrated in vacuo to afford 2.63 g (87%) 3-bromophenyliso-cyanate.

reactant | 3-Bromoaniline | 15.3 mmol, 2.63 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | hydrogen chloride | 1N | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 15.3 ml | C(C)OCC | C4H10O
product | 3-bromophenyliso-cyanate | 2.63 g, 87% | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
